US08865726B2
To (S)-4-(3-chlorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (65 mg, 0.11 mmol) in DCM (5 mL) was added TFA (1 mL) and the reaction was stirred at ambient temperature for 6 hours. The reaction was concentrated to dryness and the residue dissolved in MeOH/ammonia (7N). After stirring at ambient temperature for 30 minutes, the reaction was concentrated then purified by reverse phase chromatography (SP4, 12M, water/CH3CN 100:0 to 0:100, 20 column volumes) to yield (S)-4-(3-chlorophenyl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (22 mg, 43% yield) as a pale yellow solid. LCMS (APCI+) m/z 476.3 [M+H]+.

reactant | (S)-4-(3-chlorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.11 mmol, 65 mg | ClC=1C=C(C=CC1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)F | C29H29ClFN7O3Si
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-(3-chlorophenyl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 22 mg, 43% yield | ClC=1C=C(C=CC1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NNC=N2)F | C23H15ClFN7O2
